US07208494B2
n) (4R,9aR)-6-Chloro-4,7-dimethyl-3,4,9,9a-tetrahydro-1 H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.26 g (0.77 mmol) (R)-6-chloro-4,7-dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 5 mL acetic acid was added 0.24 g (3.87 mmol) sodium cyanoborohydride. After 2 h the volatile components were removed at a rotary evaporator and the residue was taken up in ethyl acetate and treated with 32% aqueous sodium hydroxide solution until a pH of 11 was obtained. The aqueous phase was extracted twice with ethyl acetate and the combined organic layers were washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:7) as eluant to give the product as a colourless oil (80.3%).

reactant | (R)-6-chloro-4,7-dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.77 mmol, 0.26 g | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=C(N=C3N2[C@@H](C1)C)Cl)C | C17H22ClN3O2
reactant | sodium cyanoborohydride | 3.87 mmol, 0.24 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | (4R,9aR)-6-Chloro-4,7-dimethyl-3,4,9,9a-tetrahydro-1 H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 80.3% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)Cl)C | C17H24ClN3O2
